US05446025
A solution of 1 gram of leuprolide acetate in 15 ml of methanol was loaded onto an anion exchange resin in the hydroxide ion form (Bio-Rad AG-1×2, 200-400 mesh, Bio-Rad Laboratories, 237-T Putnam Ave., Cambridge, Mass. 02139). The resin column had been prepared by passing a solution of 0.5M methanolic sodium hydroxide through a column of the resinin chloride ion form, as obtained from the manufacturer. The free base formof leuprolide was eluted from the column with methanol and the solvent removed by evaporation to yield leuprolide in the free base form. HPLC determination of the putiry of the eluted material indicated that it was 96.5% pure.

reactant | leuprolide acetate | 1 gram | CCNC(=O)[C@@H]1CCCN1C(=O)[C@H](CCCNC(=N)N)NC(=O)[C@H](CC(C)C)NC(=O)[C@@H](CC(C)C)NC(=O)[C@H](CC=2C=CC(=CC2)O)NC(=O)[C@H](CO)NC(=O)[C@H](CC3=CNC4=C3C=CC=C4)NC(=O)[C@H](CC5=CNC=N5)NC(=O)[C@@H]6CCC(=O)N6.CC(=O)O
reactant | AG-1 | CCC1(CCC(=O)NC1=O)C2=CC=C(C=C2)N | C13H16N2O2
reactant | sodium hydroxide | 0.5M | [OH-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | leuprolide | CCNC(=O)[C@@H]1CCCN1C(=O)[C@H](CCCNC(=N)N)NC(=O)[C@H](CC(C)C)NC(=O)[C@@H](CC(C)C)NC(=O)[C@H](CC=2C=CC(=CC2)O)NC(=O)[C@H](CO)NC(=O)[C@H](CC3=CNC4=C3C=CC=C4)NC(=O)[C@H](CC5=CNC=N5)NC(=O)[C@@H]6CCC(=O)N6 | C59H84N16O12
